US05037991
63. 2-[4(3-methyl-2-butenoxy)phenoxy]ethanol
In the same manner, S-ethyl chlorothioformate is reacted with each of 2-[4(1-methylpropylthio)phenylthio]ethanol, 2-[4(1-methylpropoxy)phenoxy]ethanol, 2-[4(3-methyl-2-butenylthio)phenylthio]ethanol and 2-[4(1-methylpropylthio)phenoxy]ethanol to give, respectively, compounds 64, 65, 66, 67 and 84 under Table A.

reactant | S-ethyl chlorothioformate | ClC(=O)SCC | C3H5ClOS
reactant | 2-[4(1-methylpropylthio)phenylthio]ethanol | CC(CC)SC1=CC=C(C=C1)SCCO | C12H18OS2
reactant | 2-[4(1-methylpropoxy)phenoxy]ethanol | CC(CC)OC1=CC=C(OCCO)C=C1 | C12H18O3
reactant | 2-[4(3-methyl-2-butenylthio)phenylthio]ethanol | CC(=CCSC1=CC=C(C=C1)SCCO)C | C13H18OS2
reactant | 2-[4(1-methylpropylthio)phenoxy]ethanol | CC(CC)SC1=CC=C(OCCO)C=C1 | C12H18O2S
product | 2-[4(3-methyl-2-butenoxy)phenoxy]ethanol | CC(=CCOC1=CC=C(OCCO)C=C1)C | C13H18O3
